US08076491B2
To a solution of NaH (2.5 g) in DMF (200 mL) was added quinoxaline-2,3(1H,4H)-dione (5 g) in portions, followed by the slow addition of methyl iodide (3.8 mL). The reaction mixture was stirred at ambient temperature for 4 hours, then water was added (200 mL) The resulting precipitate was collected by filtration and washed with water to afford 1,4-dimethylquinoxaline-2,3(1H,4H)-dione as a white solid in 95% yield. 1H NMR (400 MHz, DMSO-d6): δ, ppm: 3.50 (s, 6H), 7.25 (m, 2H), 7.38 (m, 4H).

reactant | NaH | 2.5 g | [H-].[Na+]
reactant | quinoxaline-2,3(1H,4H)-dione | 5 g | N1C(C(NC2=CC=CC=C12)=O)=O | C8H6N2O2
reactant | methyl iodide | 3.8 mL | CI | CH3I
reactant | water | O | H2O
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 1,4-dimethylquinoxaline-2,3(1H,4H)-dione | 95% yield | CN1C(C(N(C2=CC=CC=C12)C)=O)=O | C10H10N2O2
